US07271283B2
An excess of 2-(phenylthio)ethanethiol is reacted with epichlorohydrin to form 1,3-bis(2-(phenylthio)ethylthio)propan-2-ol. In the final step, the 1,3-bis(2-(phenylthio)ethylthio)propan-2-ol is reacted with a acryloyl chloride in the presence of a tertiary alkyl amine and dimethylaminopyridine to form 1,3-bis(2-(phenylthio)ethylthio)propan-2-yl acrylate.

reactant | 1,3-bis(2-(phenylthio)ethylthio)propan-2-ol | C1(=CC=CC=C1)SCCSCC(CSCCSC1=CC=CC=C1)O | C19H24OS4
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
product | 1,3-bis(2-(phenylthio)ethylthio)propan-2-yl acrylate | C(C=C)(=O)OC(CSCCSC1=CC=CC=C1)CSCCSC1=CC=CC=C1 | C22H26O2S4
